US07608631B2
2 g of methanesulfonic acid 3-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxy]-propyl ester, 1.14 g of 4-iodophenol and 1.96 g of potassium carbonate are stirred for 24 hours at 50° C. in 20 ml of dimethylformamide. The reaction mixture is poured onto water and extracted with ethyl acetate. The organic phase is washed with water and potassium carbonate solution and concentrated. Purification over silica gel yields 1,3-dichloro-5-(3,3-dichloro-allyloxy)-2-[3-(4-iodo-phenoxy)-propoxy]-benzene. 1H-NMR (CDCl3) 300 MHz: 2.28 (m, 2H), 4.13 (t, 2H), 4.22 (t, 2H), 4.58 (d, 2H), 6.10 (t, 1H), 6.71 (d, 2H), 6.81 (s, 2H), 7.55 (d, 2H)

reactant | methanesulfonic acid 3-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxy]-propyl ester | 2 g | ClC1=C(OCCCOS(=O)(=O)C)C(=CC(=C1)OCC=C(Cl)Cl)Cl | C13H14Cl4O5S
reactant | 4-iodophenol | 1.14 g | IC1=CC=C(C=C1)O | C6H5IO
reactant | potassium carbonate | 1.96 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 1,3-dichloro-5-(3,3-dichloro-allyloxy)-2-[3-(4-iodo-phenoxy)-propoxy]-benzene | ClC1=C(C(=CC(=C1)OCC=C(Cl)Cl)Cl)OCCCOC1=CC=C(C=C1)I | C18H15Cl4IO3
